US06809108B1
(2R)-N-{((3R)-1-ethyl-3-piperidyl)methyl}-1-{(2S,3R,4S)-3,4-dihydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide
The title compound was prepared by a method similar to Example 77, using (2R)-1-{(2S,3R,4S)-3,4-dihydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide and ethyl iodide. The compound was obtained as a white solid.

reactant | (2R)-1-{(2S,3R,4S)-3,4-dihydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide | O[C@@H]1[C@H](N(C[C@@H]1O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CNCCC1 | C37H44N4O5
reactant | ethyl iodide | C(C)I | C2H5I
product | (2R)-N-{((3R)-1-ethyl-3-piperidyl)methyl}-1-{(2S,3R,4S)-3,4-dihydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | C(C)N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H]([C@@H]1O)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H48N4O5
